US08703810B2
2-(3,3-Dimethylpyrrolidin-1-yl)ethanol
The title compound was synthesized as described in Intermediate 21 using 2,2-dimethylsuccinic acid and 2-aminoethanol as starting materials. 1H NMR (CDCl3): δ 3.55 (t, 2H), 3.35 (br s, 1H), 2.60 (m, 4H), 2.33 (s, 2H), 1.55 (t, 2H), 1.43 (s, 6H).

reactant | 2,2-dimethylsuccinic acid | CC(C(=O)O)(CC(=O)O)C | C6H10O4
reactant | 2-aminoethanol | NCCO | C2H7NO
product | 2-(3,3-Dimethylpyrrolidin-1-yl)ethanol | CC1(CN(CC1)CCO)C | C8H17NO
